US08211908B2
To a solution of 0.50 g of (5-methoxy-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-2-yl)methyl acetate in 5 mL of dioxane, 0.63 g of potassium carbonate, 0.21 mL of trimethylboroxin and 0.18 g of tetrakis(triphenylphosphine)palladium(0) were added, and the mixture was stirred at 70 to 90° C. for 3 hours under a nitrogen atmosphere. The mixture was heated under reflux while further stirring for 3 hours, after cooling to room temperature, water and ethyl acetate were added to the reaction mixture, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate, the organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=80:20 to 50:50 to obtain 0.22 g of (5-methoxy-4-methylpyridin-2-yl)methyl acetate as a yellow oily substance.

reactant | (5-methoxy-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-2-yl)methyl acetate | 0.50 g | C(C)(=O)OCC1=NC=C(C(=C1)OS(=O)(=O)C(F)(F)F)OC | C10H10F3NO6S
reactant | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxin | 0.21 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | water | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-methoxy-4-methylpyridin-2-yl)methyl acetate | 0.22 g | C(C)(=O)OCC1=NC=C(C(=C1)C)OC | C10H13NO3
